US05627200
To a stirred solution of ethyl 5-methoxybenzofuran-2-carboxylic acid (5.0 g, 26 mmol) in dichloromethane (CH2Cl2) (100 ml) at 0° C. was added boron tribromide (8.6 mL, 91 mmol) and the resulting dark solution was allowed to stir at room temperature for 2 hours. The reaction solution was poured over ice, stirred for 30 minutes and extracted with ethyl acetate (EtOAc). The organic phase was washed with water, saturated aqueous brine, dried over sodium sulfate, (Na2SO4), and concentrated in vacuo to afford 5-hydroxybenzofuran-2-carboxylic acid (4.0 g; m.p. 223°-228° C.).

reactant | ethyl 5-methoxybenzofuran-2-carboxylic acid | 26 mmol, 5.0 g | C(C)C1=C(OC2=C1C=C(C=C2)OC)C(=O)O | C12H12O4
reactant | boron tribromide | 91 mmol, 8.6 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-hydroxybenzofuran-2-carboxylic acid | 4.0 g | OC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H6O4
